US07217714B1
1-[(tert-Butoxycarbonyl)amino]cyclopentanecarboxylic acid
1-Aminocyclopentanecarboxylic acid (1.00 g, 7.74 mmol), di-tert-butyl dicarbonate (3.85 g, 17.6 mmol) and potassium carbonate (2.28 g, 16.5 mmol) were stirred together for 16 hours at room temperature in dioxane (20 ml) and water (20 ml). The solvents were removed under reduced pressure and the residue acidified with 1M citric acid solution and extracted with dichloromethane (×3). The organic solutions were dried (MgSO4), filtered and evaporated under reduced pressure to yield an oil which crystallized on standing, this was triturated with hexane to afford the title compound as a white solid, 1.26 g.

reactant | 1-Aminocyclopentanecarboxylic acid | 7.74 mmol, 1.00 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | di-tert-butyl dicarbonate | 17.6 mmol, 3.85 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium carbonate | 16.5 mmol, 2.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 1-[(tert-Butoxycarbonyl)amino]cyclopentanecarboxylic acid | C(C)(C)(C)OC(=O)NC1(CCCC1)C(=O)O | C11H19NO4
